US07081454B2
2-(4-Iodo-2-methoxy-pyridin-3-yl)-7-methyl-3H-benzimidazole-5-carbonitrile:
To a solution of 3,4-diamino-5-methyl-benzonitrile (2.00 g, 13.6 mmol) in MeOH (40 mL) was added 4-iodo-2-methoxy-pyridine-3-carbaldehyde (3.6 g, 13.6 mmol) in MeOH (20 mL) at 0° C. The resulting slurry was stirred at 0° C. for 1 h. Iodine (1.73 g, 8.8 mmol) in MeOH (10 mL) was added dropwise via a dropping funnel to the reaction mixture at 0° C. The reaction mixture was stirred at room temperature for 14 h. After removal of MeOH, the residue was diluted with saturated Na2S2O3 and extracted with EtOAc. The combined organic layers were washed with water and brine, dried over Na2SO4. The crude product was purified by flash column chromatography (3% MeOH/CH2Cl2) to yield the title compound (1.81 g, 46%). 1H NMR (300 MHz, CDCl3) δ 7.90 (1H, s), 7.49 (1H, d, J=5.4 Hz), 7.46 (1H, s), 7.41 (1H, d, J=5.3 Hz), 3.78 (3H, s), 2.68 (3H, s). LCMS (M+H)+ m/z 391 (t=1.27 min.).

reactant | 3,4-diamino-5-methyl-benzonitrile | 13.6 mmol, 2.00 g | NC=1C=C(C#N)C=C(C1N)C | C8H9N3
reactant | 4-iodo-2-methoxy-pyridine-3-carbaldehyde | 13.6 mmol, 3.6 g | IC1=C(C(=NC=C1)OC)C=O | C7H6INO2
reactant | Iodine | 8.8 mmol, 1.73 g | II | I2
solvent | MeOH | 40 mL | CO | CH4O
solvent | MeOH | 20 mL | CO | CH4O
solvent | MeOH | 10 mL | CO | CH4O
product | 2-(4-Iodo-2-methoxy-pyridin-3-yl)-7-methyl-3H-benzimidazole-5-carbonitrile | 1.81 g, 46% | IC1=C(C(=NC=C1)OC)C=1NC2=C(N1)C(=CC(=C2)C#N)C | C15H11IN4O
